US04789731
A mixture of 2,4-dodecadienoic acid (50 mg, 0.26 mM), DCC (58 mg, 0.28 mM) and HOBT (43 mg, 0.28 mM) in tetrahydrofuran (THF, 5 ml) was stirred for one hour at room temperature. The mixture was filtered and the filtrate was added into a vigorously stirred solution of L-α-amino-n-butyric acid (52 mg, 0.5 mM) and triethylamine (0.13 ml) in 50% aqueous THF (2 ml). The reaction mixture was stirred for 4 hours, concentrated to 1 ml under reduced pressure, and the concentrate diluted with 5 ml of water. The solution was washed with ethyl acetate (EtOAc, 5 ml), acidified to pH 2.0 and extracted with EtOAc (5 ml). Evaporation of the extract gave α-(2,4-dodecadienoylamino)-n-butyric acid (64 mg 90%) as a pale yellow solid.

reactant | 2,4-dodecadienoic acid | 0.26 mM, 50 mg | C(C=CC=CCCCCCCC)(=O)O | C12H20O2
reactant | DCC | 0.28 mM, 58 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 0.28 mM, 43 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | α-(2,4-dodecadienoylamino)-n-butyric acid | 64 mg, 90% | C(C=CC=CCCCCCCC)(=O)NC(C(=O)O)CC | C16H27NO3
